US07101868B2
N-[3-(Azetidin-3-ylmethoxy)-4-chloro-phenyl]-2-(4-fluoro-benzylamino)-nicotinamide
To a solution of 10 mL of TFA/CH2Cl2 (1:1) was added 3-(2-chloro-5-{[2-(4-fluoro-benzylamino)-pyridine-3-carbonyl]-amino}-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester (270 mg, 0.5 mmol) at 0° C. The solution was stirred for 2 h at RT. The solvents were removed in vacuo. The residue was diluted in 30 mL of EtOAc and washed with 30 mL of saturated aqueous NaHCO3, then brine. The resulting organic phase was dried over MgSO4 and concentrated in vacuo. The title compound was purified by column chromatography (silica gel, 5% 2N NH3 in MeOH/EtOAc) and isolated as a white solid. MS (ES+): 442 (M+H)+. Calc'd for C23H22ClFN4O2-440.90.

reactant | 3-(2-chloro-5-{[2-(4-fluoro-benzylamino)-pyridine-3-carbonyl]-amino}-phenoxymethyl)-azetidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 270 mg | C(C)(C)(C)OC(=O)N1CC(C1)COC1=C(C=CC(=C1)NC(=O)C=1C(=NC=CC1)NCC1=CC=C(C=C1)F)Cl | C28H30ClFN4O4
solvent | TFA CH2Cl2 | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-[3-(Azetidin-3-ylmethoxy)-4-chloro-phenyl]-2-(4-fluoro-benzylamino)-nicotinamide | N1CC(C1)COC=1C=C(C=CC1Cl)NC(C1=C(N=CC=C1)NCC1=CC=C(C=C1)F)=O | C23H22ClFN4O2
